US04060615
Cyclopentylcarbonyl chloride (0.1 mole) is added to 0.1 mole of 4-amino-2-(1-piperazinyl)-6,7-dimethoxyquinazoline in 300 ml. of methanol with vigorous stirring at room temperature. Stirring is continued for a period of 2 to 6 hours and the product is isolated according to the procedure of Example 1(a) to provide 4-amino-2-[4-(cyclopentylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline. If the hydrochloride salt is desired, the base treatment is omitted and evaporation of the solvent provides 4-amino-2-[4-(cyclopentylcarbonyl)-piperazinyl]-6,7-dimethoxyquinazoline hydrochloride, m.p. 279°-280° C. (dec.)(corr.) crystallized from methanol-isopropanol.

reactant | Cyclopentylcarbonyl chloride | 0.1 mole | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | 4-amino-2-(1-piperazinyl)-6,7-dimethoxyquinazoline | 0.1 mole | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
solvent | methanol | CO | CH4O
product | 4-amino-2-[4-(cyclopentylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1CCCC1 | C20H27N5O3
